US07585885B2
(S)-2-sec-Butylamino-6-(2H-tetrazol-5-yl)-isonicotinic acid methyl ester
Heat a suspension of (S)-2-sec-butylamino-6-cyano-isonicotinic acid methyl ester (932 mg, 4.0 mmol), sodium azide (780 mg, 12 mmol), and triethylamine hydrochloride (1.65 g, 12 mmol) in toluene (13 mL) at 90° C. for 2 days. Cool to room temperature and extract with water (3×30 mL), acidify the combined aqueous layers to about pH=2 using 1 N HCl, extract the desired product with ethyl acetate (4×50 mL), dry (sodium sulfate) and concentrate to give the title compound (720 mg, 65%).

reactant | (S)-2-sec-butylamino-6-cyano-isonicotinic acid methyl ester | 4.0 mmol, 932 mg | COC(C1=CC(=NC(=C1)C#N)N[C@@H](C)CC)=O | C12H15N3O2
reactant | sodium azide | 12 mmol, 780 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 12 mmol, 1.65 g | Cl.C(C)N(CC)CC
solvent | toluene | 13 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-sec-Butylamino-6-(2H-tetrazol-5-yl)-isonicotinic acid methyl ester | 720 mg, 65% | COC(C1=CC(=NC(=C1)C=1N=NNN1)N[C@@H](C)CC)=O | C12H16N6O2
